US04851434
N-[2-(2-Hydroxyethoxy)ethyl]lactamide (Reaction product of 2-(2-aminoethoxy)ethanol and lactic acid)
Equimolar quantities of lactic acid and 2-(2-aminoethoxy)ethanol were mixed together. This mixture was then heated to 120° for 2 hours and the resulting water of reaction was continuously removed. The final product was a viscous, amber colored liquid.

reactant | lactic acid | C(C(O)C)(=O)O | C3H6O3
reactant | 2-(2-aminoethoxy)ethanol | NCCOCCO | C4H11NO2
solvent | water | O | H2O
product | N-[2-(2-Hydroxyethoxy)ethyl]lactamide | OCCOCCNC(C(O)C)=O | C7H15NO4
